US07208518B2
A mixture of 2-ethylphenol (Aldrich) (6.1 g; 50 mmole), malonic acid (Aldrich) (5.2 g; 50 mmole), zinc chloride (20.4 g, 150 mmole) and phosphorous oxychloride (Merck) (14 mL; 150 mmole) was heated under stirring for 24 hours at 70–75° C., whereupon the reaction was stopped and a mixture of water and ice was added. The reaction mixture was stirred for further 2 hours at room temperature and then 10% sodium carbonate (150 mL) was added to the filtered brown precipitate while stirring. The insoluble part was filtered and the filtrate was acidified with concentrated hydrochloric acid, whereat a brown precipitate was precipitated, which was then filtered and washed with cold water. By recrystallization from 50% ethanol there were obtained 2.29 g (24%) of brown powdery 8-ethyl-4-hydroxycoumarin.

reactant | 2-ethylphenol | 50 mmole, 6.1 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | malonic acid | 50 mmole, 5.2 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | phosphorous oxychloride | 150 mmole, 14 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 150 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | zinc chloride | 150 mmole, 20.4 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 8-ethyl-4-hydroxycoumarin | 2.29 g, 24% | C(C)C=1C=CC=C2C(=CC(OC12)=O)O | C11H10O3
